US04246284
A mixture of 18.2 g, of 4-hydroxybenzenesulfonamide, 33.6 g of 4-(6-bromohexyl)-3,5-heptanedione, 18.3 g. of powdered anhydrous potassium carbonate and 175 ml. of acetone was stirred at reflux for 24 hours. The reaction mixture was cooled, filtered to remove salts, and concentrated in vacuo. The solid residue was recyrstallized from an acetone-ether mixture to give 4-[6-(4-aminosulfonylphenoxy)hexyl]-3,5-heptanedione, m.p. 86°-87° C. (light yellow solid).

reactant | 4-hydroxybenzenesulfonamide | OC1=CC=C(C=C1)S(=O)(=O)N | C6H7NO3S
reactant | 4-(6-bromohexyl)-3,5-heptanedione | 33.6 g | BrCCCCCCC(C(CC)=O)C(CC)=O | C13H23BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-[6-(4-aminosulfonylphenoxy)hexyl]-3,5-heptanedione | NS(=O)(=O)C1=CC=C(OCCCCCCC(C(CC)=O)C(CC)=O)C=C1 | C19H29NO5S
